US08034938B2
(11S)-11-[(benzyloxy)methyl]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine (4.5 g, 12 mmol) was added to a mixture of methanol (177 mL) and acetyl chloride (1.3 mL, 19 mmol) in a pressure bottle. Palladium on carbon (10%, 900 mg) was then added and the reaction mixture was shaken under H2 at 48 PSI (3.3×105 Pa). After 4 days, the reaction mixture was filtered through a pad of CELITE filter agent. The pad was rinsed with methanol and the combined filtrates were treated with 2 mL of 50% aqueous NaOH solution and the mixture was concentrated under reduced pressure to afford an oily solid. Chromatography (SiO2, 0-30% CMA/CHCl3) afforded an oil that was concentrated with acetonitrile to give 1.6 g of [(11S)-6-amino-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]methanol as a tan solid.

reactant | (11S)-11-[(benzyloxy)methyl]-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 12 mmol, 4.5 g | C(C1=CC=CC=C1)OC[C@H]1COCC=2N1C1=C(C(=NC3=CC=CC=C13)N)N2 | C21H20N4O2
reactant | methanol | 177 mL | CO | CH4O
reactant | acetyl chloride | 19 mmol, 1.3 mL | C(C)(=O)Cl | C2H3ClO
catalyst | Palladium on carbon | 900 mg | [Pd] | Pd
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | [(11S)-6-amino-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]methanol | 1.6 g | NC1=NC2=CC=CC=C2C2=C1N=C1N2[C@H](COC1)CO | C14H14N4O2
